### PR TITLE
feat(RingTheory/Ideal): the `⊥` and `⊤` cases of the pointwise action on ideals

### PR DESCRIPTION
**Pull request by xroblot**
Add the `⊥` and `⊤` versions of several results about pointwise actions, stabilizers and inertia subgroups, starting with `smul_bot` and `smul_top`: a group acting monotonically on an ordered type fixes `⊥` and `⊤`.

A few related results about the kernel of a ring homomorphism are added along the way, and some hypotheses and arguments are cleaned up.

Prepared with Claude Code 🤖

---

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Pointwise.lean [hunk 1]
```diff
@@ -156,6 +161,22 @@ instance IsPrime.smul {I : Ideal R} [H : I.IsPrime] (g : M) : (g • I).IsPrime
 theorem IsPrime.smul_iff {I : Ideal R} (g : M) : (g • I).IsPrime ↔ I.IsPrime :=
   ⟨fun H ↦ inv_smul_smul g I ▸ H.smul g⁻¹, fun H ↦ H.smul g⟩
 
+theorem smul_top (a : M) : a • (⊤ : Ideal R) = ⊤ :=
+  _root_.smul_top a
+
+theorem stabilizer_top : MulAction.stabilizer M (⊤ : Ideal R) = ⊤ :=
+  MulAction.stabilizer_top
```
Comment (tb65536) [inline Mathlib/RingTheory/Ideal/Pointwise.lean]: Are these still necessary?

File: Mathlib/RingTheory/Ideal/Pointwise.lean [hunk 2]
```diff
@@ -88,6 +89,10 @@ instance : CovariantClass M (Ideal R) HSMul.hSMul LE.le :=
 theorem smul_bot (a : M) : a • (⊥ : Ideal R) = ⊥ :=
   map_bot
 
+theorem stabilizer_bot {G : Type*} [Group G] [MulSemiringAction G R] :
+    MulAction.stabilizer G (⊥ : Ideal R) = ⊤ :=
+  MulAction.stabilizer_bot
```
Comment (tb65536) [inline Mathlib/RingTheory/Ideal/Pointwise.lean]: Likewise.

File: Mathlib/Algebra/Order/Group/Action.lean [hunk 3]
```diff
@@ -45,20 +45,39 @@ theorem smul_strictMono_right [SMul M α] [Preorder α] [CovariantClass M α HSM
     (m : M) : StrictMono (HSMul.hSMul m : α → α) :=
   fun _ _ => CovariantClass.elim _
 
-lemma le_pow_smul {G : Type*} [Monoid G] {α : Type*} [Preorder α] {g : G} {a : α}
-    [MulAction G α] [CovariantClass G α HSMul.hSMul LE.le]
-    (h : a ≤ g • a) (n : ℕ) : a ≤ g ^ n • a := by
+section Monoid
+
+variable {G : Type*} [Monoid G] [Preorder α] [MulAction G α] [CovariantClass G α HSMul.hSMul LE.le]
```
Comment (tb65536) [inline Mathlib/Algebra/Order/Group/Action.lean]: You could use the existing variable `M`? (for "monoid")

File: Mathlib/RingTheory/Ideal/Pointwise.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Pointwise.lean]: Well, I guess, no. I deleted `MulAction.stabilizer_top` and `MulAction.stabilizer_bot`

File: Mathlib/RingTheory/Ideal/Pointwise.lean [hunk 4]
```diff
@@ -6,6 +6,7 @@ Authors: Eric Wieser
 module
 
 public import Mathlib.Algebra.Ring.Action.End
+public import Mathlib.GroupTheory.GroupAction.Basic
```
Comment (tb65536) [inline Mathlib/RingTheory/Ideal/Pointwise.lean]: I'm not sure this is necessary anymore?

File: Mathlib/Algebra/Group/Subgroup/Basic.lean [hunk 5]
```diff
@@ -1204,4 +1204,12 @@ variable {G} in
 lemma inertia_map_subtype (H : Subgroup G) : (I.inertia H).map H.subtype = I.inertia G ⊓ H := by
   rw [← AddSubgroup.subgroupOf_inertia, Subgroup.subgroupOf_map_subtype]
 
+@[simp]
+lemma inertia_bot [FaithfulSMul G M] : (⊥ : AddSubgroup M).inertia G = ⊥ := by
+  simpa [Subgroup.eq_bot_iff_forall, sub_eq_zero] using faithfulSMul_iff.mp ‹_›
+
+@[simp]
+lemma inertia_top : (⊤ : AddSubgroup M).inertia G = ⊤ := by
+  simp [Subgroup.eq_top_iff']
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/Basic.lean]: Should `M` be explicit for these?

File: Mathlib/RingTheory/Ideal/Pointwise.lean [hunk 6]
```diff
@@ -156,6 +157,16 @@ instance IsPrime.smul {I : Ideal R} [H : I.IsPrime] (g : M) : (g • I).IsPrime
...
 
+@[simp]
+theorem inertia_top {R : Type*} [Ring R] [MulSemiringAction M R] :
+    inertia M (⊤ : Ideal R) = ⊤ :=
+  AddSubgroup.inertia_top M
+
+@[simp]
+theorem inertia_bot {R : Type*} [Ring R] [MulSemiringAction M R] [FaithfulSMul M R] :
+    inertia M (⊥ : Ideal R) = ⊥ :=
+  AddSubgroup.inertia_bot M
```
Comment (tb65536) [inline Mathlib/RingTheory/Ideal/Pointwise.lean]: Should `R` and `M` be explicit for these?

**Review by tb65536 — APPROVED** [review]
